US06200989B1
3-(4-heptanoylaminopiperidine-1-yl)-1-chloropropane
A mixture of 4-heptanoylaminopiperidine (7.49 g; preparation 16), triethylamine (9.79 ml) and 1-bromo-3-chloropropane (5.38 ml) in 200 ml of dry tetrahydrofuran was refluxed for 4 hours, then a further 9.79 ml of triethylamine and 5.38 ml of 1-bromo-3-chloropropane were added. The reaction mixture was refluxed overnight, then concentrated to dryness, treated with 100 ml of saturated aqueous potassium carbonate solution and extracted with ethyl acetate (2×100 ml). The organic extracts were pooled, dried over sodium sulfate and concentrated to dryness to give 15 g of an oil which was purified by silica gel chromatography (eluent chloroformlmethanol 9:1) to give, after crystallization from 30 ml of hexane, 6.12 g of the product, m.p. 68-70° C.

reactant | 4-heptanoylaminopiperidine | 7.49 g | C(CCCCCC)(=O)NC1CCNCC1 | C12H24N2O
reactant | triethylamine | 9.79 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-chloropropane | 5.38 ml | BrCCCCl | C3H6BrCl
reactant | triethylamine | 9.79 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-chloropropane | 5.38 ml | BrCCCCl | C3H6BrCl
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(4-heptanoylaminopiperidine-1-yl)-1-chloropropane | 15 g | C(CCCCCC)(=O)NC1CCN(CC1)CCCCl | C15H29ClN2O
